US07932281B2
Synthesis of 5-piperidin-1-yl-pentanoic acid
5-Bromopentanoic acid methyl ester (1.22 g) was dissolved in acetonitrile (24.4 ml) and added with potassium carbonate (1.30 g), potassium iodide (0.104 g), and piperidine (0.928 ml) and the whole was stirred at 70° C. for 2.5 hours. The reaction solution was added with water and the whole was subjected to separation/extraction with chloroform. The organic layer was washed with a saturated saline solution and then dried with anhydrous sodium sulfate, followed by concentration under reduced pressure. The residue was again dissolved in 18% hydrochloric acid (20 ml) and the whole was refluxed under heating for 3 hours. The reaction solution was concentrated under reduced pressure. Recrystallization was performed with acetone/acetic acid, thereby obtaining a hydrochloride (1.15 g) of the subject compound as a colorless crystal.

reactant | 5-Bromopentanoic acid methyl ester | 1.22 g | COC(CCCCBr)=O | C6H11BrO2
reactant | potassium carbonate | 1.30 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.104 g | [I-].[K+]
reactant | piperidine | 0.928 ml | N1CCCCC1 | C5H11N
solvent | acetonitrile | 24.4 ml | C(C)#N | C2H3N
solvent | water | O | H2O
product | 5-piperidin-1-yl-pentanoic acid | 1.15 g | N1(CCCCC1)CCCCC(=O)O | C10H19NO2
